US05442060
To a solution of 407 mg (1.54 mmol) of (R)-3-(2, 3-methylenedioxyphenyl) octanoic acid in 8 ml of THF were added 0.24 ml of triethylamine and then 0.15 ml (1.6 mmol) of ethyl chloroformate. After stirring for 20 minutes, a solution of 264 mg (1.38 mmol) of 2, 6-diisopropylbenzylamine in tetrahydrofuran was added to the mixture, which was stirred at room temperature for 2 hours. The reaction mixture was mixed with 10 ml of water and shaken with ethyl acetate. The extract was washed with saturated saline, dried over anhydrous magnesium sulfate and the solvent evaporated in vacuo. The residue was recrystallized from a mixed solvent of hexane and ethyl acetate to give 348 mg of (R)-N-(2, 6-diisopropylbenzyl)-3-(2,3-methylenedioxyphenyl) octanamide as white crystals. Yield, 52%.

reactant | (R)-3-(2, 3-methylenedioxyphenyl) octanoic acid | 1.54 mmol, 407 mg | C1OC2=C(C=CC=C2O1)[C@@H](CC(=O)O)CCCCC | C15H20O4
reactant | triethylamine | 0.24 ml | C(C)N(CC)CC | C6H15N
reactant | ethyl chloroformate | 1.6 mmol, 0.15 ml | ClC(=O)OCC | C3H5ClO2
reactant | 2, 6-diisopropylbenzylamine | 1.38 mmol, 264 mg | C(C)(C)C1=C(CN)C(=CC=C1)C(C)C | C13H21N
solvent | THF | 8 ml | C1CCOC1 | C4H8O
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | 10 ml | O | H2O
product | (R)-N-(2, 6-diisopropylbenzyl)-3-(2,3-methylenedioxyphenyl) octanamide | 348 mg | C(C)(C)C1=C(CNC(C[C@@H](CCCCC)C2=C3C(=CC=C2)OCO3)=O)C(=CC=C1)C(C)C | C28H39NO3
